US05108486
Following procedures similar to those employed in Step B of Example 3, the reaction of 2.25 g (0.00890 mole) of 4-(2-diethylaminopyridin-5-yl)-2-methyl-3-thiosemicarbazide with 1.9 g (0.0089 mole) of trifluoroacetic anhydride in 200 ml of toluene yielded 1.3 g of 4-(2-diethylaminopyridin-5-yl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5-(1H)-thione as a solid, mp 96°-98° C., Compound 182 of Table 1. The nmr and mass spectra were consistent with the proposed structure.

reactant | 4-(2-diethylaminopyridin-5-yl)-2-methyl-3-thiosemicarbazide | 0.00890 mole, 2.25 g | C(C)N(C1=NC=C(C=C1)NC(N(N)C)=S)CC | C11H19N5S
reactant | trifluoroacetic anhydride | 0.0089 mole, 1.9 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2-diethylaminopyridin-5-yl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5-(1H)-thione | 1.3 g | C(C)N(C1=NC=C(C=C1)N1C(=NN(C1=S)C)C(F)(F)F)CC | C13H16F3N5S
